Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w PMH prostate cancer, hyperparathyroidism, and chronic back
pain who presents to the ED with 1 day of right foot pain,
swelling and redness. Patient denied any trauma/falls. Says he
had been feeling feverish and had measured his own temperature
for several days prior  and had intermittent fevers up to 104
since ___. His right foot then became red and painful on
___ night. Patient unable to ambulate yesterday morning due
to pain. Patient tried using eczema cream on the foot with no
improvement. Patient has mild baseline swelling of the bilateral
feet but denies any heart issues. He was seen 6 months ago by a
podiatrist for right heel pain that was presumed plantar
fasciitis. Patient denies any other concurrent infectious
symptoms. 

In the ED, initial vitals:  
T98.7, HR 81, BP 117/60, RR 16, 96% RA (intermittently febrile 
in
ED with Tmax 102.5)

- Exam notable for:  
Vitals: Afebrile, HR 88
Gen: NAD, ___ speaking 
CV: RRR
Ext: Right foot, ankle, and up to mid calf erythematous and
swollen compared to L. Baseline swelling of left leg w/o 
pitting.
Sensation and movement intact. Strength 5- bilaterially. Signs 
of
slight skin opening and likely fungal infection between R toes
___. No drainage from skin, toes are shiny but pt states that it
is Vaseline. 

- Labs notable for:  
WBC 8.6
BMP WNL, Lactate 0.9-->1.5

- Imaging notable for:  
Doppler of RLE: No evidence of deep venous thrombosis in the
right lower extremity veins.

CXR: Linear opacity in the left base likely represents
atelectasis.  No convincing evidence for pneumonia. 

- Patient was given:  
IV Vanc x1, ibuprofen/Tylenol, 
Doxy PO 100mg Q12

- Consults:  
___

- Vitals prior to transfer:  
T98.5, BP 109/58, 48, 20, 97% RA

On arrival to the floor, pt denied having significant pain and
says his intermittent fevers and the RLE swelling/erythema are
his only active symptoms. 

 
Past Medical History:
Iron deficiency anemia  
Polyps and hemorrhoids on colonoscopy, pathology = no 
abnormality
Hyperlipidemia  
Hyperparathyroidism  
Multinodular goiter, diagnosed using thyroid uptake scan ___
Carotid stenosis s/p endarterectomy  
Hypoglycemia  
s/p hernia repair  
s/p Appendectomy

 
Social History:
___
Family History:
Father died of old age. Mother had cardiac disease, but later in 
life and died at age ___. Denies any cancer, other heart disease, 
diabetes history.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T98.5, BP 109/58, 48, 20, 97% RA
GENERAL: Pleasant, lying in bed comfortably  
HEENT: Face symmetric, no ptosis 
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused. Right foot, ankle, and up to mid calf
erythematous and swollen compared to L (See OMR for pictures).
Baseline swelling of left leg w/o pitting. Sensation and 
movement
intact. Strength ___ bilaterally. Signs of slight skin opening
and likely fungal infection between R toes. Toes are shiny; no
drainage noted.
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  

DISCHARGE PHYSICAL EXAM:
GENERAL: Afebrile, Pleasant, lying in bed comfortably  
HEENT: Face symmetric, no ptosis 
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused. Right foot, ankle, and up to mid calf
erythematous and swollen compared to L (See OMR for pictures on
admission).
Baseline swelling of left leg w/o pitting. Sensation and 
movement
intact. Strength ___ bilaterally. Signs of slight skin opening
and likely fungal infection between R toes. No drainage noted.
Additionally, an area of blanchable erythema in R groin that has
also been demarcated- improving on day 2 with less erythema. 
Blanching, less tender to touch but not warm. No raised lesions.
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  

 
Pertinent Results:
ADMISSION LABS: 
___ 12:20PM BLOOD WBC-8.6 RBC-3.53* Hgb-11.5* Hct-34.4* 
MCV-98 MCH-32.6* MCHC-33.4 RDW-13.8 RDWSD-50.1* Plt ___
___ 12:20PM BLOOD Neuts-83.6* Lymphs-9.2* Monos-6.5 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-7.17* AbsLymp-0.79* 
AbsMono-0.56 AbsEos-0.03* AbsBaso-0.02
___ 12:20PM BLOOD Glucose-121* UreaN-28* Creat-0.9 Na-138 
K-4.3 Cl-105 HCO3-23 AnGap-10
___ 04:45AM BLOOD Calcium-9.6 Phos-2.5* Mg-2.1
___ 12:25PM BLOOD Lactate-0.9

DISCHARGE LABS:

___ 06:36AM BLOOD WBC-8.9 RBC-3.53* Hgb-11.4* Hct-34.4* 
MCV-98 MCH-32.3* MCHC-33.1 RDW-13.6 RDWSD-48.6* Plt ___
___ 06:36AM BLOOD Glucose-165* UreaN-23* Creat-0.9 Na-145 
K-4.6 Cl-111* HCO3-20* AnGap-14
___ 06:36AM BLOOD Calcium-10.1 Phos-3.0 Mg-2.0

Imaging:
CXR: IMPRESSION:   PICC line terminating in the superior vena 
cava. 
___ Doppler RLE: IMPRESSION:  No evidence of deep venous 
thrombosis in the right lower extremity veins. 

Micro:
Blood Cxs: No growth to date
  

 
Brief Hospital Course:
___ yo man with history of prostate cancer, b/l mild ___ edema and
hyperparathyroidism p/w fevers and RLE erythema/edema found to
be cellulitis of right foot who was admitted for IV antibiotics. 
Will
dispo home on IV Vanc course with PICC.

ACUTE ISSUES: 
============= 
#Right lower extremity cellulitis- Patient initially febrile on 
___ and then had
pain, erythema, swelling on R foot. No history of diabetes but 
has mild venous status at baseline with no heart failure. Has 
slight opening between toes and a possible fungal infection. No 
leukocytosis on presentation. US was negative for DVT on RLE. 
Was given a dose of IV Vanc in the ED and then transitioned to 
PO Doxycycline. On the floor, he was switched to Cephalexin 
given low suspicion for MRSA cellulitis. Due to continued 
intermittent fevers to 102 and spreading of the cellulitis 
despite Cephalexin, IV Vanc was restarted with improvement of 
cellulitis. He will continue IV Vancomycin at home until ___ 
for a full 10 day course. He had a PICC line placed prior to 
discharge for home antibiotics.

CHRONIC ISSUES:
===============
#Bradycardia:
HR stayed in the ___ during his admission. ECG showed sinus 
bradycardia. Remained asymptomatic and normotensive.

TRANSITIONAL ISSUES:
====================
[] Please draw BMP at first follow up to ensure no 
nephrotoxicity secondary to Vancomycin
[] Monitor for improvement of RLE cellulitis (picture in OMR on 
admission)
[] No medications were held. Only vancomycin was started with an 
anticipated course of 10 days (___). Ensure PICC line is 
removed after course of IV antibiotics has finished.
[] Please consider discontinuing ASA 325mg PO daily: No CAD so 
would be primary prevention. Risk would likely outweigh benefit 
even for low dose aspirin, but certainly would for full dose 
ASA. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
2. Aspirin 325 mg PO DAILY 
3. Cyanocobalamin 500 mcg PO DAILY 
4. Ferrous GLUCONATE 324 mg PO DAILY 
5. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
6. Miconazole 2% Cream 1 Appl TP BID:PRN fungal infection 
7. Betamethasone Dipro 0.05% Oint 1 Appl TP BID eczema 

 
Discharge Medications:
1.  Vancomycin 1000 mg IV Q 24H 
RX *vancomycin 1 gram 1000 mg IV daily Disp #*7 Vial Refills:*0 
2.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Aspirin 325 mg PO DAILY  
4.  Betamethasone Dipro 0.05% Oint 1 Appl TP BID eczema  
5.  Cyanocobalamin 500 mcg PO DAILY  
6.  Ferrous GLUCONATE 324 mg PO DAILY  
7.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
8.  Miconazole 2% Cream 1 Appl TP BID:PRN fungal infection  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Cellulitis of the right lower extremity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for an infection of the soft tissue in your 
right leg. 
 
What was done for me while I was in the hospital?  
- You were started on IV antibiotics and treated for your 
infection symptomatically.

What should I do when I leave the hospital?  
- Ensure you continue the full course of antibiotics at home.
- Take the rest of your medications as prescribed on your 
discharge paperwork.
- Continue monitoring the daily progress of your infection. You 
can take pictures of it if you notice it significantly 
worsening. 
- Attend follow-up appointments with your primary care 
physician. 

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___